US03998829
20-Ethoxy-21-formyl-3α-hydroxy-5α-pregn-20- en-11-one
A solution of 3α-acetoxy-20-ethoxy-21-formyl-5α-pregn-20-en-11-one (500 mg) in ethyl alcohol (15 ml) was treated with potassium bicarbonate (450 mg) and the mixture was refluxed, under nitrogen, for 7 hours, then poured into water. The product was extracted with methylene chloride, and the extract washed with water, dried and evaporated. Purification of the residue (37 mg) by preparative t.l.c. and crystallisation from methyl acetate/petrol gave title compound (154 mg) m.p. 175°-178°, [α]D - 115.9°, λmax. 258 nm (ε 18,780).

reactant | 3α-acetoxy-20-ethoxy-21-formyl-5α-pregn-20-en-11-one | 500 mg | C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(=CC=O)OCC)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C26H38O5
reactant | potassium bicarbonate | 450 mg | C([O-])(O)=O.[K+]
reactant | water | O | H2O
solvent | ethyl alcohol | 15 ml | C(C)O | C2H6O
product | 20-Ethoxy-21-formyl-3α-hydroxy-5α-pregn-20- en-11-one | 154 mg | C(C)OC(=CC=O)[C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)O | C24H36O4
